US07737166B2
4-Cyano-7-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-N,N,5-trimethyl-6-phenyl-1,3-benzoxazole-2-carboxamide (#40)
Under nitrogen atmosphere, a dimethyl sulfoxide (2 ml) solution (3S)-3-(dimethylamino)pyrrolidine (75 μl, 594 μmol) was added at 150° C. to a dimethyl sulfoxide (8 ml) solution of 4-cyano-7-fluoro-N,N,5-trimethyl-6-phenyl-1,3-benzoxazole-2-carboxamide (I-114) (160 mg, 495 μmol) and triethylamine (90 μl, 644 μmol), followed by stirring at the same temperature for 50 minutes.

reactant | (3S)-3-(dimethylamino)pyrrolidine | 594 μmol, 75 μl | CN([C@@H]1CNCC1)C | C6H14N2
reactant | 4-cyano-7-fluoro-N,N,5-trimethyl-6-phenyl-1,3-benzoxazole-2-carboxamide | 495 μmol, 160 mg | C(#N)C1=C(C(=C(C2=C1N=C(O2)C(=O)N(C)C)F)C2=CC=CC=C2)C | C18H14FN3O2
reactant | triethylamine | 644 μmol, 90 μl | C(C)N(CC)CC | C6H15N
solvent | dimethyl sulfoxide | 8 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 2 ml | CS(=O)C | C2H6OS
product | 4-Cyano-7-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-N,N,5-trimethyl-6-phenyl-1,3-benzoxazole-2-carboxamide | C(#N)C1=C(C(=C(C2=C1N=C(O2)C(=O)N(C)C)N2C[C@H](CC2)N(C)C)C2=CC=CC=C2)C | C24H27N5O2
